US07709482B2
The crude dimethyl 7-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulene-6,8-dicarboxylate was dissolved in 200 mL of ethanol (EtOH) and then 100 mL of 2 N KOH. The resulting mixture was refluxed at 85° C. for 17 h. After cooling to ambient temperature, the volatiles were evaporated. To the residue was added 120 mL of 2N HCl at 0° C., the crude product was extracted by EtOAc (200 mL×2). The combined extracts were washed with brine. After being dried (MgSO4), filtered, and concentrated, the residue was purified by flash column chromatography on silica gel (hexanes/EtOAc 8:1) to afford 6.6 g (57%) of 8,9-dihydro-5H-benzo[7]annulen-7(6H)-one as a white solid: mp 40-41° C.; 1H NMR (300 MHz, CDCl3) δ: 7.21 (m, 4H), 2.94-2.90 (m, 4H), 2.63-2.60 (m, 4H); LC-MS: 161 (M+H)+.

reactant | dimethyl 7-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulene-6,8-dicarboxylate | O=C1C(CC2=C(CC1C(=O)OC)C=CC=C2)C(=O)OC | C15H16O5
reactant | KOH | 2 N, 100 mL | [OH-].[K+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 8,9-dihydro-5H-benzo[7]annulen-7(6H)-one | 6.6 g, 57% | C1=CC=CC2=C1CCC(CC2)=O | C11H12O
